US05215964
A. Boc-Pro-Phe-NH2
To a solution of Boc-Pro-OH (4.304 g, 20 mmoles) in ethyl acetate (200 mL) at -15° C., N-methylmorpholine (2.2 mL, 20 mmoles) and isobutyl chloroformate (2.6 mL, 20 mmoles) were added. After an activation time of 10 minutes at -15° C., a solution of HCl.Phe-NH2 (4.014 g, 20 mmoles) and N-methylmorpholine (2.2 mL, 20 mmoles) in dimethylacetamide (20 mL) was added. The reaction mixture was stirred at -15° C. for 30 minutes and allowed to warm to room temperature. After stirring for 2 hours at room temperature, the reaction mixture was quenched with 10% potassium carbonate solution (30 mL). The two clear layers were transferred to a separatory funnel, and the organic layer was washed successively with 10% potassium carbonate solution (2×30 mL), saturated sodium chloride solution (1×30 mL), IN HCl (2×30 mL) and saturated sodium chloride solution (2× 30 mL). After drying over anhydrous sodium sulfate, the organic solution was filtered and concentrated on a rotary evaporator under house vacuum. The product was precipitated with hexane, filtered and dried.

reactant | Boc-Pro-OH | 20 mmoles, 4.304 g | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | N-methylmorpholine | 20 mmoles, 2.2 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 20 mmoles, 2.6 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | HCl | Cl | ClH
reactant | Phe-NH2 | 20 mmoles, 4.014 g | N[C@@H](CC1=CC=CC=C1)C(=O)N | C9H12N2O
reactant | N-methylmorpholine | 20 mmoles, 2.2 mL | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylacetamide | 20 mL | CC(=O)N(C)C | C4H9NO
product | Boc-Pro-Phe-NH2 | N1([C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N)CCC1)C(=O)OC(C)(C)C | C19H27N3O4
